US06482951B2
To a stirred solution of borane.tetrahydrofuran complex (50 mL of 1.5 M solution in tetrahydrofuran/diethyl ether) cooled to 0° C. under argon was added a solution of 3-fluorophthalic acid (4.51 g; 24.0 mmol) in tetrahydrofuran (40 mL) dropwise over a 15 minute period. At the end of the addition, the mixture was allowed to stir for 2 h at 0° C. The mixture was allowed to warm to room temperature and then refluxed for 20 h. The mixture was allowed to cool to room temperature, quenched with methanol (30 mL) and concentrated in vacuo. The residue was taken up into ethyl acetate (150 mL), washed with saturated sodium bicarbonate solution. The aqueous layer was further extracted with ethyl acetate (2×125 mL) and the combined extracts were washed with brine solution. The organic extract was dried (sodium sulfate), filtered and concentrated in vacuo to give 3.73 g (99%) of 3-fluoro-1,2-di-(hydroxymethyl) benzene as a white solid: ES-LRMS calcd for C8H8FO2 (M+−1) 155, found 155.

reactant | borane | B | BH3
reactant | 3-fluorophthalic acid | 24.0 mmol, 4.51 g | FC1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5FO4
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 M, 50 mL | O1CCCC1 | C4H8O
product | 3-fluoro-1,2-di-(hydroxymethyl) benzene | 3.73 g, 99% | FC=1C(=C(C=CC1)CO)CO | C8H9FO2
